US09029409B2
To a flask containing 4-bromo-N-(4-methoxybenzyl)picolinamide (0.3 g) in 1,4-dioxane (1.1 mL) was added (E)-4,4,5,5-tetramethyl-2-styryl-1,3,2-dioxaborolane (0.22 g), Pd(dppf)—chloroform adduct (0.04 g) and 2M aqueous cesium carbonate (1.9 mL). The mixture was stirred at about 95° C. for about 12 h. The reaction was diluted with water and washed three times with CH2Cl2. The organic solution was filtered over Celite®, and concentrated under reduced pressure yielding (E)-N-(4-methoxybenzyl)-4-styrylpicolinamide as a deep yellow oil (0.25 g, 80%). LC/MS (Table-1, Method f) Rt=2.03 min; MS m/z 345 (M+H)+. This intermediate was then dissolved in 4.3 mL of 1,4-dioxane and treated with 0.87 mL of water and sodium periodate (0.75 g). After stirring for approximately 30 min at RT, osmium tetroxide (0.30 mL of a 0.1 M solution in t-butanol) was added to the reaction which was then stirred for about an additional 4 h at RT. The layers were separated and the organic solution was dried over MgSO4, filtered, and concentrated under reduced pressure. The product was isolated by flash chromatography to give 4-formyl-N-(4-methoxybenzyl)picolinamide (0.25 g, 80%): LC/MS (Table 1, method-f) Rt=1.01 min; MS m/z 271 (M+H)+.

reactant | 4-bromo-N-(4-methoxybenzyl)picolinamide | 0.3 g | BrC1=CC(=NC=C1)C(=O)NCC1=CC=C(C=C1)OC | C14H13BrN2O2
reactant | (E)-4,4,5,5-tetramethyl-2-styryl-1,3,2-dioxaborolane | 0.22 g | CC1(OB(OC1(C)C)\C=C\C1=CC=CC=C1)C | C14H19BO2
reactant | cesium carbonate | 2M, 1.9 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1.1 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (E)-N-(4-methoxybenzyl)-4-styrylpicolinamide | 0.25 g, 80% | COC1=CC=C(CNC(C2=NC=CC(=C2)\C=C\C2=CC=CC=C2)=O)C=C1 | C22H20N2O2
